### PR TITLE
Initial style guide

### PR DESCRIPTION
**Pull request by MitchellBuckley**
I've drafted up a short style guide that is intended as a starting point for a more complete and rigorous guide which can be developed over time. I hope that the rules/examples in this version are correct.

I suggest:
1. Review and corrections of this limited guide up to a point where it is readable and accurate.
2. Merge.
3. Improvements, more details, and new sections can be proposed through pull-requests and go through the usual review process. 

In this way we can democratise the process somewhat, and also distribute the work-load across all interested parties.

### CODE REVIEW

File: docs/Style.thy [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+
+subsection \<open>by\<close>
+
+(* The use of `by my_last_method` should be restricted to those cases where the final method
+   application is either:
+
+   1. Relatively simple and unlikely to break in the future, or
+   2. a very long-running method.
+
+   TO DO: Elaborate on the reasons for this standard.
```
Comment (lsf37) [inline docs/Style.thy:179]: I thought we had actually decided that it doesn't matter in the end. The main complaint was that it's hard to figure out the error message if something breaks, but that has changed over Isabelle versions, and most methods do present their error message with `by`.

The reason I'd prefer not to make this is a rule is that upstream Isabelle style is to *prefer* `by`.

File: docs/Style.thy [hunk 2]
```diff
@@ -0,0 +1,182 @@
...
+   A known use case for `prefer` is where a proof has a tree-like structure, and the prover wants to
+   approach it with a breadth-first approach. Since the default isabelle strategy is depth-first,
+   prefers (or defers) will be needed, e.g. corres proofs.
+*)
+
+subsection \<open>auto\<close>
+
+(* The `auto` method must only be used at the end of a proof, as the last method in a proof.
+
+   TO DO: Elaborate on the reasons for this standard.
```
Comment (lsf37) [inline docs/Style.thy:168]: Could point at the section in my style guide for that.

File: docs/Style.thy [hunk 3]
```diff
@@ -0,0 +1,182 @@
...
+ * @TAG(DATA61_BSD)
+ *)
+
+chapter \<open>An Isabelle Syntax Style Guide\<close>
+
+theory Style
+  imports Main
+begin
+
+(* This style guide is heavily influenced by Gerwin's Style Guide for Isabelle/HOL. See parts 1
```
Comment (lsf37) [inline docs/Style.thy:17]: We should make these `text` comments instead of actual comments. That way, they are rendered readable on GitHub and they do show up in html/pdf if we produce that.

File: docs/Style.thy [hunk 4]
```diff
@@ -0,0 +1,182 @@
...
+   and 2 here:
+
+   * https://proofcraft.org/blog/isabelle-style.html
+   * https://proofcraft.org/blog/isabelle-style-part2.html
+
+   This guide may repeat some parts of Gerwin's guide and should not conflict in any way.
```
Comment (lsf37) [inline docs/Style.thy:23]: There is also a difference between the style guides: ny style guide avoids almost all syntactic considerations and is mostly about semantics things. This one here is more focussed on the syntactic aspect. Ideally we'd just link to mine for semantic considerations (like "auto in the middle of a proof") or when we have a different rule.

File: docs/Style.thy [hunk 5]
```diff
@@ -0,0 +1,182 @@
...
+ *)
+
+section \<open>General Principles\<close>
+
+(* TO DO: What advice should go here? *)
```
Comment (lsf37) [inline docs/Style.thy:28]: I'll write something for discussion.

File: docs/Style.thy [hunk 6]
```diff
@@ -0,0 +1,182 @@
...
+
+
+section \<open>Definitions\<close>
+
+(* Definitions should be written over 2 lines in the following style.
+
+   Note that indentation is 2 spaces and the definitions do not run past 100 character line
+   limit. Note also that the \equiv symbol is used.
```
Comment (lsf37) [inline docs/Style.thy:36]: \equiv is indeed our default. I wonder if we should make it mandatory or leave it open, because upstream style is to prefer the opposite (`=`). I do like \equiv better, mostly for reasons of syntax precedence (needs fewer parentheses). Upstream uses `<->` to get around the precedence for boolean definitions, but it doesn't work for other types and I find it strange for a definition.

The reason some people prefer `=` is that it's easier to work with in the logic, e.g. you can combine it easily with `sym` or similar without converting to object equality first, but I have never found that a hindrance in practice. Certainly not so far that I would write more parentheses everywhere.

Happy to keep it at \equiv, just wanted to point out that there are other opinions.

File: docs/Style.thy [hunk 7]
```diff
@@ -0,0 +1,182 @@
...
+ *)
+
+definition hd_opt :: "'a list \<Rightarrow> 'a option" where
+  "hd_opt \<equiv> case_list None (\<lambda>h t. Some h)"
```
Comment (lsf37) [inline docs/Style.thy:40]: It'd be nicer to use an example that has a parameter on the lhs, just to give a more familiar pattern.

File: docs/Style.thy [hunk 8]
```diff
@@ -0,0 +1,182 @@
...
+
+   Note that the indentation of the type signature remains no less than the indentation level of
+   the initial `"`.
+ *)
+
+type_synonym my_very_long_nat_type = nat
+type_synonym 'a my_very_long_option_type = "'a option"
+type_synonym 'a my_very_long_list_type = "'a list"
+definition hd_opt2 :: "'a my_very_long_list_type \<Rightarrow> my_very_long_nat_type \<Rightarrow>
+                       'a my_very_long_list_type \<Rightarrow> 'a my_very_long_option_type" where
```
Comment (lsf37) [inline docs/Style.thy:53]: I would not indent this way, actually. I'd write

```
definition hd_opt2 ::
  "'a my_very_long_list_type \<Rightarrow> my_very_long_nat_type \<Rightarrow>
   'a my_very_long_list_type \<Rightarrow> 'a my_very_long_option_type"
  where
```

`where` could also go on the end of the last line, I don't mind that. The main point is to break after the `::` to avoid a potentially very long right overhang (length depends on the name of the constant).

File: docs/Style.thy [hunk 9]
```diff
@@ -0,0 +1,182 @@
...
+   gives a nice visual indication of the nesting depth of your proof.
+
+   The usual indentation for 0 subgoals is 2 spaces for a top-level proof.
+
+  For example:
+*)
+
+lemma test_lemma1:
+  "2 \<le> length l \<Longrightarrow> \<exists>h1 h2 t. l = h1 # h2 # t"
+  apply (case_tac l)
```
Comment (lsf37) [inline docs/Style.thy:114]: Should probably have `cases` in the example since we should prefer that where possible.

File: docs/Style.thy [hunk 10]
```diff
@@ -0,0 +1,182 @@
...
+   TO DO: Develop more rigorous advice on this issue.
+
+   Some examples.
+*)
+
+lemma test_lemma2:
+  "case_option None hd_opt (hd_opt l) = Some x \<Longrightarrow>
+   hd_opt (concat l) = Some x"
+  apply (clarsimp simp: hd_opt_def
+                 split: list.splits)
```
Comment (lsf37) [inline docs/Style.thy:138]: It's in the TODO, but just wanted to comment here that we should allow both alignment styles for method modifiers: align on `:` and align left.

File: docs/Style.thy [hunk 11]
```diff
@@ -0,0 +1,182 @@
+(*
+ * Copyright 2021, Data61, CSIRO
+ *
+ * This software may be distributed and modified according to the terms of
+ * the BSD 2-Clause license. Note that NO WARRANTY is provided.
+ * See "LICENSE_BSD2.txt" for details.
+ *
+ * @TAG(DATA61_BSD)
```
Comment (lsf37) [inline docs/Style.thy:8]: Needs an SPDX license header now and should be CC-BY-SA-4.0 (see other README files)

File: docs/Style.thy (hunk 1 above)
Comment (MitchellBuckley) [reply docs/Style.thy:179]: Will remove for now.

**Comment by lsf37** [comment]
I've added general goals that the rules in the style guide should aim towards. Hopefully this will give us a good basis for discussion if there is disagreement.

File: docs/Style.thy [hunk 12]
```diff
@@ -0,0 +1,260 @@
...
+
+definition long_defn_type ::
+  "'this => 'is => 'a => 'long => 'type => 'that => 'does =>
+   'not => 'fit => 'in => 'one => 'line"
+  where
+  "long_defn_type \<equiv> undefined"
+
+fun foo_fun :: "nat \<Rightarrow> nat" where
+  "foo_fun 0 = 0" |
+  "foo_fun (Suc n) = n"
```
Comment (corlewis) [inline docs/Style.thy:132]: I know that this came from the previous document, but my strong preference is for
```suggestion
fun foo_fun :: "nat \<Rightarrow> nat" where
    "foo_fun 0 = 0"
  | "foo_fun (Suc n) = n"
```

File: docs/Style.thy [hunk 13]
```diff
@@ -0,0 +1,260 @@
...
+datatype cdl_object =
+    Endpoint
+  | Tcb type_foo
+  | CNode cdl_cnode
+  | Untyped
+
+datatype cdl_arch = IA32 | ARM11
+
+text \<open>
+There are tools to automatically indent proofs in both jEdit and Emacs. In terms of rules:
```
Comment (corlewis) [inline docs/Style.thy:147]: I think that we can remove the reference to Emacs now.

File: docs/Style.thy [hunk 14]
```diff
@@ -0,0 +1,260 @@
...
+
+text \<open>
+  If a definition body causes an overflow of the 100 char line limit, use one
+  of the following two patterns.
+\<close>
+
+definition hd_opt :: "'a list \<Rightarrow> 'a option" where
+  "hd_opt \<equiv> case_list
+            None
+            (\<lambda>h t. Some h)"
```
Comment (corlewis) [inline docs/Style.thy:178]: Being pedantic, I think that this should be
```suggestion
  "hd_opt \<equiv> case_list
              None
              (\<lambda>h t. Some h)"
```

File: docs/Style.thy [hunk 15]
```diff
@@ -0,0 +1,260 @@
...
+  apply (clarsimp simp: hd_opt_def
+                  split: list.splits)
+  done
+
+lemma test_lemma3:
+  "case_option None hd_opt (hd_opt l) = Some x \<Longrightarrow>
+   hd_opt (concat l) = Some x"
+  apply ((case_tac l; simp add: hd_opt_def),
+         rename_tac h t,
+         case_tac h; simp)
```
Comment (corlewis) [inline docs/Style.thy:208]: Do we want to require extra bracketing when `;` and `,` interact? I don't know about others, but I haven't managed to internalise this yet and it's not obvious to me whether these lines are correctly indented.

**Review by corlewis — COMMENTED** [review]
This is great, thanks for pushing this forwards Mitch!

File: docs/Style.thy [hunk 16]
```diff
@@ -0,0 +1,260 @@
...
+
+text \<open>
+The statement of Hoare triple lemmas are generally indented in the following way.
+\<close>
+
+lemma my_hoare_triple_lemma:
+  "\<lbrace> precondition_one and precondition_two and
+     precondition three \<rbrace>
+   my_function param_a param_b
+   \<lbrace> post_condition \<rbrace>"
```
[the remark this answers is not in the document]
Comment (mbrcknl) [reply docs/Style.thy:104]: No real argument, but a mild preference for no spaces, if only because it's the way I'm accustomed to the syntax translations printing things back to me.

File: docs/Style.thy (hunk 12 above)
Comment (lsf37) [reply docs/Style.thy:132]: I used to write them like this and still have. a slight preference for it, but the other style seems more popular upstream. I'm easy on this one. If people prefer it, happy with that.

File: docs/Style.thy (hunk 15 above)
Comment (lsf37) [reply docs/Style.thy:208]: I'm actually not that sure either. It'd be better to figure that out and document it better than requiring more parentheses, though.

File: docs/Style.thy (hunk 16 above)
[the remark this answers is not in the document]
Comment (lsf37) [reply docs/Style.thy:104]: Also mild preference for no spaces.

File: docs/Style.thy [hunk 17]
```diff
@@ -0,0 +1,260 @@
...
+
+definition valid ::
+  "'a \<Rightarrow> 'b \<Rightarrow> 'c \<Rightarrow> bool" ("\<lbrace>_\<rbrace>/ _ /\<lbrace>_\<rbrace>")
+where
+  "\<lbrace>P\<rbrace> f \<lbrace>Q\<rbrace> \<equiv> undefined"
+
+definition
+  pred_conj :: "('a \<Rightarrow> bool) \<Rightarrow> ('a \<Rightarrow> bool) \<Rightarrow> ('a \<Rightarrow> bool)" (infixl "and" 35)
+where
+  "pred_conj P Q \<equiv> \<lambda>x. P x \<and> Q x"
```
[the remark this answers is not in the document]
Comment (lsf37) [reply docs/Style.thy:24]: I vote for a separate helper theory. It'll be nicer when you can start reading actual content from the top.

[the remark this answers is not in the document]
Comment (mbrcknl) [reply docs/Style.thy:24]: Is there a reason to not just import `Lib.NonDetMonad`? I guess it would mean adding a `ROOT` file with a `Docs` session, but I guess we would want that anyway, to avoid proliferation of unchecked Isabelle theories in the repo.

File: docs/Style.thy (hunk 15 above)
Comment (MitchellBuckley) [reply docs/Style.thy:208]: These parentheses are required since `,` apparently binds stronger than `;`. How could I improve this example, or should I remove the example?

File: docs/Style.thy (hunk 17 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply docs/Style.thy:26]: I added a helper theory because it's easier and faster, I hope that's ok for now.

**Comment by MitchellBuckley** [comment]
Attempted to apply most/all of the advice provided in feedback. I also rebased over master. Any further feedback?

File: docs/Style.thy (hunk 17 above)
[the remark this answers is not in the document]
Comment (lsf37) [reply docs/Style.thy:26]: A helper theory is fine from my side, but I don't see it popping up in the diff. Am I looking at the wrong version?

[the remark this answers is not in the document]
Comment (lsf37) [reply docs/Style.thy:26]: Oh, I do see it, but it's not used in `Style.thy` yet. Can you please add that? Basically we want the theory to start with the text explanation (or at least as soon as practical).

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply docs/Style.thy]: Oops, should be fixed now.

**Review by lsf37 — APPROVED** [review]
I'm happy with this as a first step. We can always tweak more later.

File: docs/Style_pre.thy [hunk 18]
```diff
@@ -0,0 +1,28 @@
...
+text \<open>
+This a helper theory for Style.thy.
+\<close>
+
+typedecl type_foo
+typedecl type_bar
+
+definition valid ::
+  "'a \<Rightarrow> 'b \<Rightarrow> 'c \<Rightarrow> bool" ("\<lbrace>_\<rbrace>/ _ /\<lbrace>_\<rbrace>")
+where
```
Comment (mbrcknl) [inline docs/Style_pre.thy:20]:
```suggestion
  where
```

File: docs/Style_pre.thy [hunk 19]
```diff
@@ -0,0 +1,28 @@
...
+  "\<lbrace>P\<rbrace> f \<lbrace>Q\<rbrace> \<equiv> undefined"
+
+definition
+  pred_conj :: "('a \<Rightarrow> bool) \<Rightarrow> ('a \<Rightarrow> bool) \<Rightarrow> ('a \<Rightarrow> bool)" (infixl "and" 35)
+where
```
Comment (mbrcknl) [inline docs/Style_pre.thy:25]:
```suggestion
  where
```

**Review by mbrcknl — APPROVED** [review]
Looks good!

**Comment by MitchellBuckley** [comment]
https://bamboo.ts.data61.csiro.au/browse/L4V-GHTESTBOARD55-1

**Review by mbrcknl — COMMENTED** [review]
One more comment: this should probably be included in a session somewhere. Is there a docs session?

**Comment by MitchellBuckley** [comment]
> One more comment: this should probably be included in a session somewhere. Is there a docs session?

There is no `ROOT` in `l4v/docs/`, and no `docs` in `l4v/ROOTS`. We can make it though.

File: docs/Style.thy [hunk 20]
```diff
@@ -0,0 +1,263 @@
...
+   case_list None (\<lambda>h t. Some h)"
+
+text \<open>
+  If an apply line causes an overflow of the 100 char line limit, use one
+  of the following two patterns: aligning on ":" or aligning on left.
+\<close>
+
+lemma test_lemma0:
+  "\<lbrakk>hd_opt l \<noteq> None; hd_opt (hd l) = Some x\<rbrakk> \<Longrightarrow>
+    hd_opt (concat l) = Some x"
```
Comment (Xaphiosis) [inline docs/Style.thy:189]: Small detail: in this example is hd_opt indented one too many here? (same in test_lemma1); it seems it's because of the `\<lbrakk>` but I'm not familiar of doing things this way.

**Comment by mbrcknl** [comment]
> > One more comment: this should probably be included in a session somewhere. Is there a docs session?
> 
> There is no `ROOT` in `l4v/docs/`, and no `docs` in `l4v/ROOTS`. We can make it though.

I just added a rather quickly assembled thing that appears to add this to the regression, according to some very superficial testing. Might be overkill; what do people think?

File: docs/Style.thy [hunk 21]
```diff
@@ -0,0 +1,263 @@
...
+    precondition three\<rbrace>
+   my_function param_a param_b
+   \<lbrace>post_condition\<rbrace>"
+  oops
+
+text \<open> or \<close>
+
+lemma my_hoare_triple_lemma:
+  "\<lbrace>precondition_one and precondition_two
+    and precondition three\<rbrace>
```
Comment (Xaphiosis) [inline docs/Style.thy:106]: I think there should be (maybe not in this revision) the concept of wrapping operators in the "operator left" style and "operator right" style. Some people prefer to wrap operations with the operator dangling on the right, e.g.

```
a + b +
c

a + b *
    c
```

while others prefer to wrap the operator and stick it on the left:

```
a + b
+ c

a + b
    * c
```

Where this is particularly useful, and I've been doing it this way for a long while, is in lemma statements (excuse ASCII art):

```
lemma "[| bunch of assumptions;
          more assumptions |]
       ==> conclusion"
```

which allows to clearly see in a large lemma where the conclusion is. Your style guide doesn't disallow that, but it might be worth pointing out that we did not settle this particular argument.
@lsf37 @mbrcknl any further memories/thoughts to add to this, while we're looking at the PR?

File: docs/Style.thy [hunk 22]
```diff
@@ -0,0 +1,263 @@
...
+
+section \<open>Comments\<close>
+
+text \<open>
+(* .. *) style comments are not printed in latex. Use them if you don't think anyone will want to
+see this printed. Otherwise, prefer text \<open> .. \<close>
+
+In stark difference to the Isabelle distribution, we do comment stuff. If you have defined or done
+anything that is tricky, required you to think deeply, or similar, save everyone else the duplicated
+work and document why things are the way you've written them.
```
Comment (Xaphiosis) [inline docs/Style.thy:232]: Good. I might add something like "That way even if your tactic/definition breaks, we will have an idea of what you were trying to achieve."

**Comment by Xaphiosis** [comment]
I think this is a very good start. The operator wrapping thing should go in it at some point (maybe after more discussion), but we can amend this document after we settle disputes in future.

I  have another comment:
* add principle: `Do not change style of lemmas/functions/definitions "by the way", i.e. near to where you are working but that you are not otherwise modifying; add such changes to principled cleanup commits instead.` We'd rather live with some legacy style than die by style-fixing confetti.

File: docs/Style.thy (hunk 21 above)
Comment (mbrcknl) [reply docs/Style.thy:106]: Perhaps we don't want to try to resolve the argument now. :-)

It would be good to acknowledge that there are two styles, each with advantages and current adherents, and while we currently allow them both, we would prefer people not to constantly reformat each other's code.

That said, in the interests of getting something merged, I'd also be happy to leave this to the next iteration.

If/when we do say something, I would definitely like to make clear that we want the indenting to follow the operator precedence, as in your examples, so:
```
a
+ b
+ c
  * d
  * e
+ f
```
rather than:
```
a
+ b
+ c
* d
* e
```

Comment (lsf37) [reply docs/Style.thy:106]: Yes, I'm happy with that (both, leaving it for later, and to explicitly allow both styles)

Comment (Xaphiosis) [reply docs/Style.thy:106]: Yeah, that's fine, but I don't want to settle the argument by accident, since I do wrap `==>` and `-->` that way, and I remember from past discussions I'm not alone on that side. So recognition of the stalemate should go in at some point.

Agreed on your point about constantly changing styles, will add to my general principle observation, I think something like that observation should go in early.

Agreed on precedence; it can even be simpler: indent if it's a different operator, but do not mislead audience about precedence, e.g. anything like this is evil:

```
a
* b
  + c
  + d
```

**Comment by lsf37** [comment]
> I think this is a very good start. The operator wrapping thing should go in it at some point (maybe after more discussion), but we can amend this document after we settle disputes in future.
> 
> I have another comment (and one more after Matt's excellent point):
> 
> * add principle: `Do not change style of lemmas/functions/definitions "by the way", i.e. near to where you are working but that you are not otherwise modifying; add such changes to principled cleanup commits instead.` We'd rather live with some legacy style than die by style-fixing confetti.
> * additionally: `When making very small changes (one-liners, renames, etc.), blend in to the style you see used around you, even if it is not your preferred style, and even if it is legacy. Having a proof accumulate a dozen styles over the decades rather than keep a suboptimal one is itself suboptimal.`

I'd also be happy with these as general guideline, applied with some discretion, i.e. not necessarily always a hard-and-fast rule.

**Comment by lsf37** [comment]
> > > One more comment: this should probably be included in a session somewhere. Is there a docs session?
> > 
> > 
> > There is no `ROOT` in `l4v/docs/`, and no `docs` in `l4v/ROOTS`. We can make it though.
> 
> I just added a rather quickly assembled thing that appears to add this to the regression, according to some very superficial testing. Might be overkill; what do people think?

I think it's great!

**Comment by Xaphiosis** [comment]
> I'd also be happy with these as general guideline, applied with some discretion, i.e. not necessarily always a hard-and-fast rule.

Yes, I agree. To confirm, my goal is to avoid in future, when young, new and eager people try do something and we get "change one line in a proof from 2012, and then do that line in the approved new style, and notice that by the way, this other term on the screen in another lemma has one too many spaces, ..."

File: docs/Style.thy (hunk 20 above)
Comment (MitchellBuckley) [reply docs/Style.thy]: > > > > One more comment: this should probably be included in a session somewhere. Is there a docs session?
> > > 
> > > 
> > > There is no `ROOT` in `l4v/docs/`, and no `docs` in `l4v/ROOTS`. We can make it though.
> > 
> > 
> > I just added a rather quickly assembled thing that appears to add this to the regression, according to some very superficial testing. Might be overkill; what do people think?
> 
> I think it's great!

Looks good to me!

File: docs/Style.thy (hunk 21 above)
Comment (MitchellBuckley) [reply docs/Style.thy:106]: Ok, thanks. I'm pretty keen to merge this as starting point and then accumulate this kind of more detailed and more accurate advice through subsequent pull-requests.

**Comment by MitchellBuckley** [comment]
https://bamboo.ts.data61.csiro.au/browse/L4V-GHTESTBOARD58
